US05686424
Using the procedure described in Example 5, treatment of L-proline-L-isoleucine benzylamide (200 mg, 0.63 mmol) with 2'-benzoyloxy-2-bromoacetophenone (302 mg, 0.95 mmol, 1.5 eq) provided 120 mg of L-isoleucine, N-[1-(2-(2-benzoyloxyphenyl)-2-oxoethyl)-L-prolyl] benzylamide as a foam.

reactant | L-proline L-isoleucine benzylamide | 0.63 mmol, 200 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | 2'-benzoyloxy-2-bromoacetophenone | 0.95 mmol, 302 mg, 1.5 eq | C(C1=CC=CC=C1)(=O)OC1=C(C=CC=C1)C(CBr)=O | C15H11BrO3
product | L-isoleucine, N-[1-(2-(2-benzoyloxyphenyl)-2-oxoethyl)-L-prolyl] benzylamide | 120 mg | C(C1=CC=CC=C1)(=O)OC1=C(C=CC=C1)C(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C33H37N3O5
